US07550478B2
6-(methylsulfonyl)-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one
To a 0° C. solution of 6-(methylthio)-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (7.4 mg, 0.022 mmol) in THF (0.7 mL) and MeOH (0.2 mL) was added oxone (0.3 mL, 0.138 M in water). The mixture was then stirred at room temperature. After 2 hours, the reaction mixture was concentrated to dryness. The crude residue was diluted with EtOAc and washed with brine. The organic layer was dried over sodium sulfate, filtered, concentrated and purified by reverse phase HPLC (30-100% acetonitrile/water gradient, 0.1% trifluoroacetic acid modifier) to afford the title compound. 1H NMR (600 MHz, CD3OD) δ 9.10 (d, 1H), 8.40 (d, 1H), 8.26 (d, 1H), 8.00 (d, 1H), 7.85 (t, 1H), 7.75 (d, 2H), 7.53 (t, 2H), 7.47 (m, 2H), 7.38 (d, 1H), 3.52 (s, 3H). LRMS (APCI) calculated for C21H16NO3S [M+H]+, 362.0; found 362.1

reactant | 6-(methylthio)-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.022 mmol, 7.4 mg | CSC1=CC=CC2=C1C(C=1C(=NC=C(C1)C1=CC=CC=C1)C=C2)=O | C21H15NOS
reactant | oxone | 0.138 M, 0.3 mL | OOS(=O)[O-].[K+]
reactant | THF | 0.7 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.2 mL | CO | CH4O
product | 6-(methylsulfonyl)-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | CS(=O)(=O)C1=CC=CC2=C1C(C=1C(=NC=C(C1)C1=CC=CC=C1)C=C2)=O | C21H15NO3S
